US09084794B2
(+)-2-(4-(3-chloroquinolin-7-yl)-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (200 mg, 0.35 mmol) in dry 1,4-dioxane (3 mL) in a 20 mL microwaveable vial was treated with bis(pinacolato)diboron (107 mg, 0.42 mmol), potassium acetate (49 mg, 0.5 mmol), and PdCl2(dppf)-CH2Cl2 adduct (14.3 mg, 0.02 mmol). The solution was degassed with nitrogen for 3 min and the vessel was purged with nitrogen, sealed, and heated to 110° C. for 19 h. Analysis of a reaction mixture aliquot indicated the reaction had not proceeded to completion, so additional bis(pinacolato)diboron (267 mg, 1.05 mmol), potassium acetate (49 mg, 0.5 mmol) and PdCl2(dppf)-CH2Cl2 adduct (35.8 mg, 0.044 mmol) were added and the reaction mixture was heated for 4 h. The reaction mixture was cooled and 7-bromo-3-chloroquinoline (85 mg, 0.35 mmol), PdCl2(dppf)-CH2Cl2 adduct (14.3 mg, 0.02 mmol), and 2M aq potassium carbonate (0.525 mL, 1.05 mmol) were added. The reaction mixture was purged with nitrogen, sealed, and heated at 110° C. for 1 h. Analysis of a reaction mixture aliquot indicated the reaction had proceeded to completion. The reaction mixture was diluted with water (50 mL) and extracted with dichloromethane (3×100 mL). The combined organic layers was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in dichloromethane (5 mL) and treated with Silicycle Si-thiol with heating (40° C. sonicator for 30 sec). The mixture was filtered and the solution was concentrated under reduced pressure. Purification of the residue by reverse phase HPLC (10-90% actonitrile/water with 0.1% NH4OH) afforded the racemix title product, which was resolved by chiral HPLC (ChiralPak IC, 40:60 isopropyl alcohol:acetonitrile) to provide the title product in 98.5% ee (20 mg, 11% yield). αD=+42 deg (c=0.12, methanol); MS(ES)+ m/e 511 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 1.12 (t, J=7.20 Hz, 3 H) 1.19 (d, J=6.06 Hz, 1 H) 1.59-1.84 (m, 1 H) 1.88-1.95 (m, 2 H) 2.29-2.40 (m, 1 H) 2.54-2.73 (m, 2 H) 2.73-2.84 (m, 1 H) 3.18 (s, 2 H) 3.41 (q, J=7.07 Hz, 2 H) 4.02 (d, J=2.02 Hz, 2 H) 4.53 (s, 1 H) 6.32 (br. s., 1 H) 7.30 (br. s., 1 H) 7.42-7.51 (m, 1 H) 7.55 (dd, J=11.37, 1.77 Hz, 1 H) 7.61 (dd, J=8.08, 1.77 Hz, 1 H) 7.84-7.96 (m, 2 H) 8.24 (d, J=2.53 Hz, 1 H) 8.35 (s, 1 H) 8.88 (d, J=2.53 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.35 mmol, 200 mg | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)CC)CC1)F | C18H23BrFN3O3
reactant | bis(pinacolato)diboron | 0.42 mmol, 107 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.5 mmol, 49 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.05 mmol, 267 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.5 mmol, 49 mg | C(C)(=O)[O-].[K+]
reactant | 7-bromo-3-chloroquinoline | 0.35 mmol, 85 mg | BrC1=CC=C2C=C(C=NC2=C1)Cl | C9H5BrClN
reactant | potassium carbonate | 1.05 mmol, 2M, 0.525 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.02 mmol, 14.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.044 mmol, 35.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.02 mmol, 14.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-(3-chloroquinolin-7-yl)-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | ClC=1C=NC2=CC(=CC=C2C1)C1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)CC)CC1)F | C27H28ClFN4O3
